US09403782B2
To a suspension of 7-bromo-1,2,3,4-tetrahydro-isoquinoline hydrochloride (500 mgs, 2.0 mmol), pyridine-2-carboxylic acid (322 mgs, 2.61 mmol), HATU (992 mgs, 2.61 mmol), in DMF (2.5 mL) was added NMM (0.7 mL, 6.0 mmol) and the resulting solution was stirred at 23° C. for 3 h. The reaction mixture was then diluted with water/acetonitrile (15:1) and the resulting oil was then taken into EtOAc and washed with 1N HCl, NaHCO3, brine and dried (MgSO4). The mixture was the filtered and concentrated) to provide (7-bromo-3,4-dihydroisoquinolin-2(1H)-yl)(pyridin-2-yl)methanone.

reactant | 7-bromo-1,2,3,4-tetrahydro-isoquinoline hydrochloride | 2.0 mmol, 500 mgs | Cl.BrC1=CC=C2CCNCC2=C1
reactant | pyridine-2-carboxylic acid | 2.61 mmol, 322 mgs | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | HATU | 2.61 mmol, 992 mgs | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NMM | 6.0 mmol, 0.7 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | water acetonitrile | O.C(C)#N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (7-bromo-3,4-dihydroisoquinolin-2(1H)-yl)(pyridin-2-yl)methanone | BrC1=CC=C2CCN(CC2=C1)C(=O)C1=NC=CC=C1 | C15H13BrN2O
